US06656971B2
N-(3-amino-5-{[3-(trifluoromethyl)phenyl]amino}phenyl)(3,5-dichlorophenyl) formamide.
A solution of (3,5-dinitrophenyl)[3-(trifluoromethyl) phenyl]amine, prepared as previously described via boronic acid coupling (0.50 g, 1.5 mmol) in CH2Cl2 (7 mL) was treated with 10% palladium/carbon (100 mg) and the mixture shaken 1 h. under 50 psi H2. The solution was filtered and the filtrate treated with triethylamine (0.15 g, 1.5 mmol) followed by 3,5-dichlorobenzoyl chloride (0.29 g, 1.4 mmol) and stirred overnight. The reaction mixture was then concentrated and the product purified on silica gel using 2:1 hexane:ethyl acetate as eluent to give 0.54 g (80%) of the desired product as a white solid: 1H NMR 400 MHz (DMSO) δ5.17 (s, 2H); 6.16 (s, 1H); 6.69 (s, 1H); 6.82 (s, 1H); 7.05 (t, J=8 Hz, 1H); 7.26-7.44 (m, 4H); 7.94 (s, 2H); 8.30 (s, 1H); 10.08 (s, 1H);

reactant | (3,5-dinitrophenyl)[3-(trifluoromethyl) phenyl]amine | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])NC1=CC(=CC=C1)C(F)(F)F | C13H8F3N3O4
reactant | boronic acid | 1.5 mmol, 0.50 g | B(O)O | BH3O2
reactant | triethylamine | 1.5 mmol, 0.15 g | C(C)N(CC)CC | C6H15N
reactant | 3,5-dichlorobenzoyl chloride | 1.4 mmol, 0.29 g | ClC=1C=C(C(=O)Cl)C=C(C1)Cl | C7H3Cl3O
solvent | CH2Cl2 | 7 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium/carbon | 100 mg | [Pd] | Pd
product | N-(3-amino-5-{[3-(trifluoromethyl)phenyl]amino}phenyl)(3,5-dichlorophenyl) formamide | 0.54 g, 80% | NC=1C=C(C=C(C1)NC1=CC(=CC=C1)C(F)(F)F)N(C=O)C1=CC(=CC(=C1)Cl)Cl | C20H14Cl2F3N3O
